US09023849B2
3-[1-(2,3-Difluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-7,7-dimethyl-5,7-dihydro-6H-pyrrolo[2,3-e][1,2,4]triazin-6-one
160 mg (purity 89%, 0.313 mmol) of methyl 2-{3-[1-(2,3-difluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-5-hydroxy-1,2,4-triazin-6-yl}-2-methylpropanoate were admixed with 4 ml (42.913 mmol) of phosphoryl chloride and the mixture was stirred at RT for 2.5 h. The reaction solution was diluted with 20 ml of dry acetonitrile and gradually added dropwise while cooling with ice to 40 ml of a 25% aqueous ammonia solution, and the mixture was stirred at RT for 1 h. The reaction mixture was concentrated on a rotary evaporator and the precipitate was filtered off. The residue was stirred with hot ethanol/water and filtered with suction, and the solids were dried under high vacuum. 70 mg of the target compound were obtained (52% of theory).

reactant | methyl 2-{3-[1-(2,3-difluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-5-hydroxy-1,2,4-triazin-6-yl}-2-methylpropanoate | 0.313 mmol, 160 mg | FC1=C(CN2N=C(C=3C2=NC(=NC3)C)C=3N=NC(=C(N3)O)C(C(=O)OC)(C)C)C=CC=C1F | C21H19F2N7O3
reactant | phosphoryl chloride | 42.913 mmol, 4 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ammonia | N | H3N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 3-[1-(2,3-Difluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-7,7-dimethyl-5,7-dihydro-6H-pyrrolo[2,3-e][1,2,4]triazin-6-one | 70 mg | FC1=C(CN2N=C(C=3C2=NC(=NC3)C)C=3N=NC2=C(N3)NC(C2(C)C)=O)C=CC=C1F | C20H16F2N8O
